US09302989B2
4-(isoindoline-2-carboxamido)benzoic acid
Methyl 4-(isoindoline-2-carboxamido)benzoate (1.65 g, 5.57 mmol) was dissolved in tetrahydrofuran (30 ml) and methanol (15.00 ml) followed by the addition of lithium hydroxide (11.14 ml, 22.27 mmol) and the mixture was allowed to stir at ambient temperature over the weekend. The organic solvent was removed under vacuum, the aqueous layer was adjusted to pH ˜3 with 2N aqueous HCl, and the resulting solid was filtered with water washes to provide the title compound after drying.

reactant | Methyl 4-(isoindoline-2-carboxamido)benzoate | 5.57 mmol, 1.65 g | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)OC)C=C1 | C17H16N2O3
reactant | methanol | 15.00 ml | CO | CH4O
reactant | lithium hydroxide | 22.27 mmol, 11.14 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
